US07649002B2
Methyl (3S,4R)-4-(2,4-difluorophenyl)-1-isopropylpyrrolidine-3-carboxylate
Sodium triacetoxyborohydride (1.32 g, 6.22 mmol) and acetic acid (235 μL, 4.14 mmol) were added to a solution of acetone (304 μL, 4.14 mmol) and methyl (3S,4R)-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate, from preparation 31 (1 g, 4.14 mmol) in dichloromethane (20 mL) at room temperature. The resulting mixture was stirred for 2 hours and diluted with dichloromethane (10 mL). Aqueous sodium hydrogen carbonate solution was added (2×20 mL) followed by brine (20 mL). The phases were separated, the organic phase was dried over magnesium sulfate, filtered and the solvent was removed in vacuo to give the crude residue. Purification of the residue by column chromatography using dichloromethane:methanol (99:1-98:2) as eluent afforded the desired product, 1.01 g (86%).

reactant | Sodium triacetoxyborohydride | 6.22 mmol, 1.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4.14 mmol, 235 μL | C(C)(=O)O | C2H4O2
reactant | acetone | 4.14 mmol, 304 μL | CC(=O)C | C3H6O
reactant | methyl (3S,4R)-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CNC1)C(=O)OC | C12H13F2NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | brine | 20 mL | [Cl-].[Na+].O
product | Methyl (3S,4R)-4-(2,4-difluorophenyl)-1-isopropylpyrrolidine-3-carboxylate | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CN(C1)C(C)C)C(=O)OC | C15H19F2NO2
